US09079916B2
Freshly prepared sodium methoxide (10.8 g, 200 mmol) was suspended in a solution of ethyl propionate (15.3 g, 150 mmol) in DMF (20 mL) at room temperature. Methyl formate (6.0 g, 100 mmol) was added over a period of 1 hour. After stirring for 30 minutes, a solution of guanidine hydrochloride (9.6 g, 100 mmol) in MeOH (35 mL) was added rapidly and the reaction mixture was refluxed for 12 hours. After cooling to 30° C. and adjusting the pH to 6.0 with concentrated hydrochloric acid, the slurry was kept at 5° C. for 30 minutes. The solid was collected, washed with methanol, crystallized from water and dried in vacuo to give 5-methylisocytosine (7.3 g, 58.4% yield). 1H NMR (300 MHz, DMSO): 610.83 (br s, 2 H), 7.38 (s, 1 H), 6.26 (br s, 2 H), 1.72 (s, 3 H).

reactant | sodium methoxide | 200 mmol, 10.8 g | C[O-].[Na+]
reactant | ethyl propionate | 150 mmol, 15.3 g | C(CC)(=O)OCC | C5H10O2
reactant | Methyl formate | 100 mmol, 6.0 g | C(=O)OC | C2H4O2
reactant | guanidine hydrochloride | 100 mmol, 9.6 g | Cl.NC(=N)N
reactant | hydrochloric acid | Cl | ClH
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | MeOH | 35 mL | CO | CH4O
product | 5-methylisocytosine | 7.3 g, 58.4% yield | CC1=CN=C(NC1=O)N | C5H7N3O
